US06107329
5-Chloro-1H-indole-2-carboxylic acid [(1S)-(4-fluoro-benzyl)-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-amide
(S)-2-Amino-3-(4-fluoro-phenyl)-1-(4-hydroxy-piperidin-1-yl)-propan-1-one hydrochloride (0.051 mol) and 5-chloro-1H-indole-2-carboxylic acid (0.051 mol) were coupled according to Procedure A and the product purified by chromatography on silica gel eluted with 50%, 75%, 80% and 100% ethyl acetate-hexanes giving a foam (yield 78%), HPLC (60/40) 4.21 minutes (99%). A portion of this material was recrystallized by dissolving in hot ethyl acetate (approximately 5-7 mL/g), and adding an approximately equal volume of hexanes at reflux, followed by slow cooling of the solution to 25° C. The solid was filtered and washed with 1:4 ethyl acetate-hexanes and dried (70-90% recovery): mp 175-177° C.;

reactant | (S)-2-Amino-3-(4-fluoro-phenyl)-1-(4-hydroxy-piperidin-1-yl)-propan-1-one hydrochloride | 0.051 mol | Cl.N[C@H](C(=O)N1CCC(CC1)O)CC1=CC=C(C=C1)F
reactant | 5-chloro-1H-indole-2-carboxylic acid | 0.051 mol | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
product | 5-Chloro-1H-indole-2-carboxylic acid [(1S)-(4-fluoro-benzyl)-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-amide | yield 78% | FC1=CC=C(C[C@@H](C(=O)N2CCC(CC2)O)NC(=O)C=2NC3=CC=C(C=C3C2)Cl)C=C1 | C23H23ClFN3O3
